US04383945
To a solution of (6R,7R)-2,2-dimethyl-7-formamido-1-aza-3-oxabicyclo[4.2.0]octan-8-one (345 mg) were added 2,6-lutidine (2.05 ml) and phosphorus oxychloride (0.52 ml) at 0° C. After stirring for 3 hours at 0° C., the mixture was poured into a mixture of ethyl acetate (80 ml) and ice-water. The organic layer was separated, washed in turn with 10% phosphoric acid, water, brine, an aqueous mixture of sodium bicarbonate and sodium chloride (1:1), and brine, dried over magnesium sulfate, and evaporated in vacuo. The crystalline residue was washed with a mixture of petroleum ether and ether (1:1) and dried over phosphorus pentoxide to give (6R,7R)-2,2-dimethyl-7-isocyano-1-aza-3-oxabicyclo[4.2.0]octan-8-one (205 mg).

reactant | (6R,7R)-2,2-dimethyl-7-formamido-1-aza-3-oxabicyclo[4.2.0]octan-8-one | 345 mg | CC1(N2C([C@@H]([C@H]2CCO1)NC=O)=O)C | C9H14N2O3
reactant | 2,6-lutidine | 2.05 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | phosphorus oxychloride | 0.52 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
product | (6R,7R)-2,2-dimethyl-7-isocyano-1-aza-3-oxabicyclo[4.2.0]octan-8-one | 205 mg | CC1(N2C([C@@H]([C@H]2CCO1)[N+]#[C-])=O)C | C9H12N2O2
